US09212187B2
Synthesis of 2-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl) ethyl carbamic acid tert-butyl ester
Diphenylphosphoryl azide(1.0 ml) and tert-butanol(10 ml) were added to a THF solution (10 ml) of 3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl) propionic acid(0.97 g) and triethylamine(0.67 ml). The mixture was stirred at 100° C. overnight. The reaction liquid was cooled to room temperature, and condensed under reduced pressure. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=80:20→50:50). The purified product was condensed under reduced pressure to give the title compound(0.38 g) as a colorless oily matter.

reactant | Diphenylphosphoryl azide | 1.0 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butanol | 10 ml | C(C)(C)(C)O | C4H10O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | 3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl) propionic acid | 0.97 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CCC(=O)O | C17H22N2O4
solvent | triethylamine | 0.67 ml | C(C)N(CC)CC | C6H15N
product | 2-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl) ethyl carbamic acid tert-butyl ester | 0.38 g | C(C)(C)(C)OC(NCCC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)=O | C21H31N3O4
